US06030970
b) Ethyl 5-amino-1-n-butyl-1H-imidazole-4-carboxylate
A solution of ethyl 2-amino-2-cyanoacetate (0.20 g, 1.56 mmol) and triethyl formate (0.30 mL, 1.72 mmol) in acetonitrile (5 mL) was refluxed for 1 h. After concentrating the residue was dissolved in a solution of acetonitrile (5 mL) and n-butylamine (0.17 mL, 1.72 mmol). The resulting mixture was stirred at reflux for 1 h. The solvents were removed under reduced pressure and the residue was partitioned between water and ethyl acetate. The organic layer was separated and washed with brine and dried (Na2SO4). After removing the solvent under reduced pressure, flash chromatography (1:1 ethyl acetate/hexane) of the residue gave 0.12 g, 40% of the title compound as an oil: 1H NMR (250 MHz, CDCl3)δ 6.97 (s, 1H), 5.10 (s, 2H), 4.31 (q, 2H), 3.75 (t, 2H), 1.65 (m, 2H), 1.35 (m, 5H), 0.97 (t, 3H); MS(ESI) m/e 212.2 [M+H]+.

reactant | ethyl 2-amino-2-cyanoacetate | 1.56 mmol, 0.20 g | NC(C(=O)OCC)C#N | C5H8N2O2
reactant | n-butylamine | 1.72 mmol, 0.17 mL | C(CCC)N | C4H11N
reactant | acetonitrile | 5 mL | C(C)#N | C2H3N
reactant | acetonitrile | 5 mL | C(C)#N | C2H3N
product | Ethyl 5-amino-1-n-butyl-1H-imidazole-4-carboxylate | 0.12 g, 40% | NC1=C(N=CN1CCCC)C(=O)OCC | C10H17N3O2
